US07253174B2
Synthesis of N-(2,2-Dimethyl-propyl)-N-methyl-N″-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)phenyl]-pyrimidine-4,5,6-triamine
To a solution of N-(2,2-dimethyl-propyl)-N-methyl-N′-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)phenyl]-5-nitro-pyrimidine-4,6-diamine (20 mg, 0.05 mmol) in 5 mL of methanol was added a catalytic amount of 10% Pd/C. The vessel was placed under a hydrogen atmosphere of 20 psi for 1 h at room temperature. The solution was filtered, and the filtrate was evaporated under vacuum to afford 4.6 mg of the product (Yield: 25%). MS (m/z) calcd for C19H26N8 (MH+), 367.2, found, 367.4.

reactant | N-(2,2-dimethyl-propyl)-N-methyl-N′-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)phenyl]-5-nitro-pyrimidine-4,6-diamine | 0.05 mmol, 20 mg | CC(CN(C1=NC=NC(=C1[N+](=O)[O-])NC1=C(C=CC(=C1)C1=NN=CN1)C)C)(C)C | C19H24N8O2
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | N-(2,2-Dimethyl-propyl)-N-methyl-N″-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)phenyl]-pyrimidine-4,5,6-triamine | 4.6 mg, Yield: 25% | CC(CN(C1=NC=NC(=C1N)NC1=C(C=CC(=C1)C1=NN=CN1)C)C)(C)C | C19H26N8
